US07781454B2
Step 1: 1-(2-fluoropyridine-3-yl)ethanone
A solution of 3.13 mL (30.90 mmol) of freshly distilled diisopropylamine in 10 mL of anhydrous THF under nitrogen cooled to −78° C. was treated dropwise with 19.31 mL (30.90 mmol) of a 1.6 M solution of n-BuLi in hexanes. The resulting solution was stirred at −78° C. for approximately 20 minutes, and was briefly (5-10 minutes) warmed to −40° C., then recooled to −78° C. At 30 minutes post addition, 3.00 g (30.90 mmol) of 2-fluoropyridine was added dropwise to the reaction. The resulting solution was stirred at −78° C. for 30 minutes. The reaction was treated dropwise with a solution of 3.16 mL (30.90 mmol) of the Weinreb amide (i.e., N-methoxy-n-methylacetamide) in 30 mL of THF. The resulting solution was stirred 18 hours, allowing the bath to slowly evaporate and the reaction temperature to rise to room temperature. The reaction was treated with 5 mL of 1N HCl, and was concentrated to remove most of the THF. The residue was extracted twice with EtOAc, and the combined extracts were washed with 1N HCl, saturated aqueous NaHCO3 solution, and brine, and were dried over anhydrous MgSO4. Filtration and concentration of the filtrate provided a crude orange oil, which was purified by flash chromatography over silica gel with 3:1 hexanes/EtOAc to provide 1.10 g of the title product as an orange oil. 1H NMR (CDCl3): δ 2.72 (s, 3H), 7.33 (m, 1H), 8.34 (m, 1H), 8.41 (m, 1H).

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | [Li]CCCC
reactant | 2-fluoropyridine | 30.90 mmol, 3.00 g | FC1=NC=CC=C1 | C5H4FN
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(2-fluoropyridine-3-yl)ethanone | 1.10 g | FC1=NC=CC=C1C(C)=O | C7H6FNO
